US07786165B2
methyl 4-hydroxy-3-isobutylbenzoate
Methyl 3-bromo-4-hydroxy-5-(2-methylprop-2-en-1-yl)benzoate (5.0 g, 24.2 mmol) and 10% palladium-carbon (50% water-containing product, 1.5 g) were added to a mixed solvent of tetrahydrofuran (70 mL) and methanol (70 mL), and the mixture was stirred under a hydrogen atmosphere at room temperature for 5 hr. The catalyst was filtered off, and the filtrate was concentrated to give the title compound (4.8 g, yield 95%) as colorless needle crystals.

reactant | Methyl 3-bromo-4-hydroxy-5-(2-methylprop-2-en-1-yl)benzoate | 24.2 mmol, 5.0 g | BrC=1C=C(C(=O)OC)C=C(C1O)CC(=C)C | C12H13BrO3
reactant | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 1.5 g | [C].[Pd]
solvent | methanol | 70 mL | CO | CH4O
product | methyl 4-hydroxy-3-isobutylbenzoate | 4.8 g, yield 95% | OC1=C(C=C(C(=O)OC)C=C1)CC(C)C | C12H16O3
